US08791102B2
Proceeding as in Reference 5, but substituting 4-(4-chlorophenoxy)aniline and (S)-2-(tert-butoxycarbonylamino)-4-phenylbutanoic acid, gave (S)-2-amino-N-(4-(4-chlorophenoxy)phenyl)-4-phenylbutanamide (320 mg, 94%).

reactant | 4-(4-chlorophenoxy)aniline | ClC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10ClNO
reactant | (S)-2-(tert-butoxycarbonylamino)-4-phenylbutanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCC1=CC=CC=C1 | C15H21NO4
product | (S)-2-amino-N-(4-(4-chlorophenoxy)phenyl)-4-phenylbutanamide | 320 mg, 94% | N[C@H](C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)CCC1=CC=CC=C1 | C22H21ClN2O2
